US07547701B2
In the solution of 1-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-2,2,2-trifluoroethanone (20 g, 83.7 mmol) in THF, borane-methyl sulfide complex (83.7 mL, 2M solution in THF) was added at 0° C. After refluxing the reaction mixture for 12 h, the reaction was cooled and quenched with MeOH. After removal of THF, the residue was extracted with ethyl acetate and washed with brine, dried with MgSO4 and concentrated to give 8-(2,2,2-trifluoroethyl)-1,4-dioxa-8-aza-spiro[4.5]decane (19 g) was obtained.

reactant | 1-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-2,2,2-trifluoroethanone | 83.7 mmol, 20 g | O1CCOC12CCN(CC2)C(C(F)(F)F)=O | C9H12F3NO3
solvent | THF | C1CCOC1 | C4H8O
solvent | borane methyl sulfide | 2M, 83.7 mL | B.CSC
product | 8-(2,2,2-trifluoroethyl)-1,4-dioxa-8-aza-spiro[4.5]decane | 19 g | FC(CN1CCC2(OCCO2)CC1)(F)F | C9H14F3NO2
